US04855291
A mixture of ethyl 7-chloro-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (5.0 g) and aqueous ammonia (specific gravity 0.88, 100 ml) was stirred and heated on a steam bath for 3.5 hours. More aqueous ammonia (100 ml) was added and heating was continued for a further 21 hours. The mixture was cooled in ice. The solid product was collected by filtration and dried to give the novel compound 7-chloro-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide, m.p. >240°.

reactant | ethyl 7-chloro-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 5.0 g | ClC1=CC=C2C(C(=CN(C2=C1)C)C(=O)OCC)=O | C13H12ClNO3
reactant | ammonia | 100 ml | N | H3N
reactant | ammonia | 100 ml | N | H3N
product | 7-chloro-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide | ClC1=CC=C2C(C(=CN(C2=C1)C)C(=O)N)=O | C11H9ClN2O2
